US06235742B1
(2S)-3-hydroxy-2-({4-[(1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-5-yl)methyl]phenyl}sulfonamido)propanamide
Methyl (2S)-3-hydroxy-2-({4-[(1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-5-yl)methyl]phenyl}sulfonamido)propanoate (280 mg, 0.0006 mol) was dissolved in 0.880 aqueous ammonia solution (10 ml), and stirred at room temperature for 60 hours. The reaction mixture was then concentrated under reduced pressure, suspended in water (10 ml), then re-concentrated under reduced pressure. Crystallisation from ethanol gave the title compound (192 mg), m.p.226-229° C.

reactant | Methyl (2S)-3-hydroxy-2-({4-[(1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-5-yl)methyl]phenyl}sulfonamido)propanoate | 0.0006 mol, 280 mg | OC[C@@H](C(=O)OC)NS(=O)(=O)C1=CC=C(C=C1)CC=1NC(C2=C(N1)C(=NN2C)CCC)=O | C20H25N5O6S
reactant | ammonia | 10 ml | N | H3N
product | (2S)-3-hydroxy-2-({4-[(1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-5-yl)methyl]phenyl}sulfonamido)propanamide | 192 mg | OC[C@@H](C(=O)N)NS(=O)(=O)C1=CC=C(C=C1)CC=1NC(C2=C(N1)C(=NN2C)CCC)=O | C19H24N6O5S
